US06759554B2
3-Nitro-N-hexylaniline (FIG. 10, Entry 10)
Using the general procedure, 3-bromonitrobenzene (202 mg, 1.0 mmol) was coupled with n-hexylamine (198 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (6:1) as eluent afforded the desired product as a light yellow solid (174 mg, 78% yield). Rf=0.5 (hexane/ethyl acetate=5:1).

reactant | 3-bromonitrobenzene | 1.0 mmol, 202 mg | BrC=1C=C(C=CC1)[N+](=O)[O-] | C6H4BrNO2
reactant | n-hexylamine | 1.5 mmol, 198 μL | C(CCCCC)N | C6H15N
product | 3-Nitro-N-hexylaniline | 174 mg, 78% yield | [N+](=O)([O-])C=1C=C(NCCCCCC)C=CC1 | C12H18N2O2
